US05128355
To a solution of 0.29 g of 1-[4-(2-cyanobenzyloxy)benzyl]-2-butyl-4-chloro-5-hydroxymethylimidazole in 8.0 mL of dimethyl sulfoxide at 25° was added 0.93 g of potassium t-butoxide followed by 0.060 mL of methyl iodide. The reaction mixture was stirred at 25° for 2.5 hours and then was poured into water. The aqueous emulsion was extracted with ethyl acetate; the organic phases were combined and washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Column chromatography on silica gel (elution: 5-25% ethyl acetate/benzene) furnished 0.17 g of 1-[4-(2-cyanobenzyloxy)benzyl]-2-butyl-4-chloro-5-methoxymethylimidazole; NWR (200 MHz, CDCl3): δ7.72-7.57 (m, 3H); 7.43 (m, 1H); 6.94 (s, 4h); 5.22 (s, 2H); 5.04 (s, 2H); 4.27 (s, 2H); 3.26 (s, 3H): 2.56 (t, 2H); 1.65 (quint., 2H); 1.33 (sext., 2H); 0.88 (t, 3H).

reactant | 1-[4-(2-cyanobenzyloxy)benzyl]-2-butyl-4-chloro-5-hydroxymethylimidazole | 0.29 g | C(#N)C1=C(COC2=CC=C(CN3C(=NC(=C3CO)Cl)CCCC)C=C2)C=CC=C1 | C23H24ClN3O2
reactant | potassium t-butoxide | 0.93 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 0.060 mL | CI | CH3I
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 8.0 mL | CS(=O)C | C2H6OS
product | 1-[4-(2-cyanobenzyloxy)benzyl]-2-butyl-4-chloro-5-methoxymethylimidazole | 0.17 g | C(#N)C1=C(COC2=CC=C(CN3C(=NC(=C3COC)Cl)CCCC)C=C2)C=CC=C1 | C24H26ClN3O2
